US08802669B2
25 mmol of Ethyl 4-chloroacetate, 25 mmol of 2-chloro-4-fluorobenzaldehyde and 30 mmol of 2,4,6-trifluorobenzamidine acetate were dissolved in 100 ml of anhydrous ethanol, 0.6 ml of hydrogen chloride/ethanol was added, and the mixture was subjected to reflux for 72 h. The mixture was then evaporated to remove the solvents, ethyl acetate and water were added, and the phases were separated. The layer of ethyl acetate was dried over anhydrous sodium sulfate and subjected to a column chromatography to give 1.42 g of a white crystal and 1.77 g of ethyl 4-(2-chloro-4-fluorophenyl)-2-(2,4,6-trifluorophenyl)-6-hydroxyl-1,4-dihydropyrimidine-5-carboxylate. 1.77 g (4 mmol) of ethyl 4-(2-chloro-4-fluorophenyl)-2-(2,4,6-trifluorophenyl)-6-hydroxyl-1,4-dihydropyrimidine-5-carboxylate was dissolved in dichloromethane, 10 mmol of thionyl chloride was added, and the mixture was subjected to reflux for 8 h to give 19.6 g of ethyl 2-(2,4,6-trifluorophenyl)-4-2-chloro-4-fluorophenyl)-6-(chloromethyl)-1,4-dihydropyrimidine-5-carboxylate (yield 29.4%): 1H-NMR (400 MHz, DMSO-d6) δ 1.07(3H, t, J=7.0 Hz, CH3); 4.76(2H, q, J=11.4 Hz, CH2); 3.99(2H, q, J=7.0 Hz, CH2); 6.02(1H, s, CH); 7.44-7.50(2H, m, ArH); 7.28-7.34(3H, m, ArH); 10.28(1H, br, NH). MS(FAB) 461.2 (M+).

reactant | 2-chloro-4-fluorobenzaldehyde | 25 mmol | ClC1=C(C=O)C=CC(=C1)F | C7H4ClFO
reactant | 2,4,6-trifluorobenzamidine acetate | 30 mmol | C(C)(=O)O.FC1=C(C(=N)N)C(=CC(=C1)F)F
reactant | hydrogen chloride ethanol | 0.6 ml | Cl.C(C)O
reactant | ethanol | 100 ml | C(C)O | C2H6O
product | ethyl 4-(2-chloro-4-fluorophenyl)-2-(2,4,6-trifluorophenyl)-6-hydroxyl-1,4-dihydropyrimidine-5-carboxylate | 1.77 g | ClC1=C(C=CC(=C1)F)C1N=C(NC(=C1C(=O)OCC)O)C1=C(C=C(C=C1F)F)F | C19H13ClF4N2O3
